US06933321B2
4′-Fluoro-2′-methoxy-3-trifluoromethyl-biphenyl-4-carbonitrile:
In a round bottom flask under argon, 4-bromo-2-trifluoromethylbenzonitrile (1 g, 4 mmol) was solubilized in a mixture of toluene (55 mL) and EtOH (20 mL). Aq. NaHCO3 (20 ml, 5 eq., 0.8 M solution) and 4-fluoro-2-methoxyphenylboronic acid (816 mg, 4.8 mmol) were added. The mixture was degassed under the stream of argon for 10 min. Then Pd(PPh3)4 (462 mg, 0.4 mmol) was added and the mixture was heated at 95° C. for 2 hr. After it was cooled, the mixture was poured in brine and extracted with CH2Cl2. This organic layer was dried (MgSO4), filtered and evaporated. Chromatography on a silica gel (250 ml, EtOAc:hexanes, 1:9), gave a white solid (951 mg, 81%), 1H NM (300 MHz, acetone-d6)δ: 8.02-8.14 (m, 3H, C2,5,6—H), 7.53 (dd, 1H, J=8, 7 Hz, C6′—H), 7.03 (dd, 1H, J=11, 2 Hz, C3′—H), 6.89 (td, 1H, J=8, 2Hz, C5′—H).

reactant | 4-bromo-2-trifluoromethylbenzonitrile | 4 mmol, 1 g | BrC1=CC(=C(C#N)C=C1)C(F)(F)F | C8H3BrF3N
reactant | NaHCO3 | 0.8 M, 20 ml, 5 eq. | C(=O)(O)[O-].[Na+]
reactant | 4-fluoro-2-methoxyphenylboronic acid | 4.8 mmol, 816 mg | FC1=CC(=C(C=C1)B(O)O)OC | C7H8BFO3
solvent | toluene | 55 mL | C1(=CC=CC=C1)C | C7H8
solvent | EtOH | 20 mL | CCO | C2H6O
solvent | brine | [Cl-].[Na+].O
catalyst | Pd(PPh3)4 | 0.4 mmol, 462 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 4′-Fluoro-2′-methoxy-3-trifluoromethyl-biphenyl-4-carbonitrile | 951 mg, 81% | FC1=CC(=C(C=C1)C1=CC(=C(C=C1)C#N)C(F)(F)F)OC | C15H9F4NO
